2117-04-03 08:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2117-4-2**] 11:11 AM
 COLONOSCOPY - At [**2117-4-2**] 03:41 PM
 ENDOSCOPY - At [**2117-4-2**] 04:20 PM
 INVASIVE VENTILATION - START [**2117-4-3**] 04:10 AM
 EKG - At [**2117-4-3**] 05:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2117-4-2**] 01:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2117-4-3**] 12:00 AM
   Vancomycin - [**2117-4-3**] 08:09 AM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-4-2**] 12:00 PM
   Fentanyl - [**2117-4-2**] 03:53 PM
   Midazolam (Versed) - [**2117-4-2**] 05:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-3**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 57 (53 - 92) bpm
   BP: 98/39(57) {67/30(43) - 159/101(247)} mmHg
   RR: 16 (5 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  3,738 mL
                                                                  3,669 mL
   PO:
             TF:
   IVF:
                                                                  1,793 mL
                                                                  3,459 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,250 mL
                                                                    310 mL
   Urine:
                                                                  1,250 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,488 mL
                                                                  3,359 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/46/172/26/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 344
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   166 K/uL
   127 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.2 mEq/L
   30 mg/dL
   113 mEq/L
   146 mEq/L
   26.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2117-4-2**]  01:20 AM
                             [**2117-4-2**]  06:13 AM
                             [**2117-4-2**]  07:03 AM
                             [**2117-4-2**]  10:32 AM
                             [**2117-4-2**]  05:13 PM
                             [**2117-4-2**]  10:00 PM
                             [**2117-4-3**]  03:10 AM
                             [**2117-4-3**]  03:33 AM
   WBC
   13.7
   12.8
   10.8
   Hct
   26
   31
   30.6
   29.9
   28.2
   27.4
   26.4
   Plt
   200
   160
   166
   Cr
   1.1
   1.2
   1.2
   TropT
   0.08
   TCO2
   30
   31
   Glucose
   142
   118
   127
   Other labs: PT / PTT / INR:13.7/32.5/1.2, CK / CKMB /
   Troponin-T:106/5/0.08, Differential-Neuts:78.0 %, Band:2.0 %,
   Lymph:13.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:202 mg/dL, Lactic
   Acid:0.8 mmol/L, Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-4-2**] 01:51 AM
   Arterial Line - [**2117-4-2**] 07:00 AM
   18 Gauge - [**2117-4-2**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2117-04-03 10:54:00 Physician Attending Progress Note
Chief Complaint: LGI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2117-4-2**] 11:11 AM
 COLONOSCOPY - At [**2117-4-2**] 03:41 PM - diverticuli seen, no active
   bleeding
 ENDOSCOPY - At [**2117-4-2**] 04:20 PM
 INVASIVE VENTILATION - START [**2117-4-3**] 04:10 AM
 EKG - At [**2117-4-3**] 05:00 AM
   hypotensive and bradycardic overnight - dopamine started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2117-4-2**] 01:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2117-4-3**] 12:00 AM
   Vancomycin - [**2117-4-3**] 08:09 AM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-4-2**] 12:00 PM
   Fentanyl - [**2117-4-2**] 03:53 PM
   Midazolam (Versed) - [**2117-4-2**] 05:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-3**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 76 (53 - 92) bpm
   BP: 133/64(88) {67/30(43) - 159/101(247)} mmHg
   RR: 25 (5 - 25) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  3,738 mL
                                                                  3,922 mL
   PO:
             TF:
   IVF:
                                                                  1,793 mL
                                                                  3,712 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,250 mL
                                                                    310 mL
   Urine:
                                                                  1,250 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,488 mL
                                                                  3,612 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/46/172/26/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 344
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, non Distended
   Extremities: Right: 1+, Left: 1+, edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   166 K/uL
   127 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.6 mEq/L
   30 mg/dL
   113 mEq/L
   146 mEq/L
   28.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2117-4-2**]  01:20 AM
                             [**2117-4-2**]  06:13 AM
                             [**2117-4-2**]  07:03 AM
                             [**2117-4-2**]  10:32 AM
                             [**2117-4-2**]  05:13 PM
                             [**2117-4-2**]  10:00 PM
                             [**2117-4-3**]  03:10 AM
                             [**2117-4-3**]  03:33 AM
                             [**2117-4-3**]  08:51 AM
   WBC
   13.7
   12.8
   10.8
   Hct
   26
   31
   30.6
   29.9
   28.2
   27.4
   26.4
   28.1
   Plt
   200
   160
   166
   Cr
   1.1
   1.2
   1.2
   TropT
   0.08
   TCO2
   30
   31
   Glucose
   142
   118
   127
   Other labs: PT / PTT / INR:13.7/32.5/1.2, CK / CKMB /
   Troponin-T:106/5/0.08, Differential-Neuts:78.0 %, Band:2.0 %,
   Lymph:13.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:202 mg/dL, Lactic
   Acid:0.8 mmol/L, Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION, bradycardia -  suspect related to respiratory issues,
   continue dopa for now, follow EKG
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 suspect lower GI
   bleed, follow Hct for now, hold coumadin, access OK
   respiratory failure
 white out of left, unclear if collapse versus
   effusion, also concerned about esophageal trauma, will check chest CT
   UTI
 on antibiotics
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   midline - [**2117-4-2**] 01:51 AM
   Arterial Line - [**2117-4-2**] 07:00 AM
   18 Gauge - [**2117-4-2**] 07:00 PM  x 2
   Prophylaxis:
   DVT: boots
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :icu
   Total time spent: 41

2117-04-05 13:34:00 Physician Attending Progress Note
Chief Complaint: LGIB and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with h/o diastolic HF, on trach for OSA, DM II, AF, CRI,
   has been requiring vent and has been on dopa.  Echo showing worsenig RV
   dilatation and RH dysfunction, elevated PA pressures.  Has been off the
   vent and off the dopa since yesterday
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-4-4**] 08:40 PM
 INVASIVE VENTILATION - STOP [**2117-4-4**] 08:43 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2117-4-2**] 01:37 PM
   Vancomycin - [**2117-4-4**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-4-4**] 04:00 PM
   Ciprofloxacin - [**2117-4-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-4-5**] 11:45 AM
   Other medications:
   SSI
   simvastatin
   anastrazole
   calcitriol
   atrovent
   Cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea
   Genitourinary: No(t) Dysuria, Foley
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2117-4-5**] 01:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 83 (66 - 86) bpm
   BP: 115/101(109) {85/47(72) - 147/102(247)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 66 Inch
             Total In:
                                                                  1,154 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    705 mL
   Urine:
                                                                    850 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    304 mL
                                                                   -605 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 365 (365 - 365) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: 7.34/57/98.[**Numeric Identifier 248**]/26/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   153 K/uL
   82 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   25 mg/dL
   110 mEq/L
   144 mEq/L
   25.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2117-4-3**]  03:40 PM
                             [**2117-4-3**]  09:02 PM
                             [**2117-4-4**]  04:02 AM
                             [**2117-4-4**]  04:10 AM
                             [**2117-4-4**]  02:14 PM
                             [**2117-4-4**]  06:29 PM
                             [**2117-4-4**]  09:36 PM
                             [**2117-4-4**]  09:54 PM
                             [**2117-4-5**]  04:28 AM
                             [**2117-4-5**]  04:44 AM
   WBC
   10.0
   8.6
   Hct
   27.5
   26.8
   25.5
   26.1
   25.8
   Plt
   180
   153
   Cr
   1.5
   1.3
   TCO2
   30
   29
   29
   31
   32
   Glucose
   106
   82
   Other labs: PT / PTT / INR:13.3/30.5/1.1, CK / CKMB /
   Troponin-T:106/5/0.08, Differential-Neuts:81.6 %, Band:2.0 %,
   Lymph:13.9 %, Mono:3.9 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic
   Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: [**4-1**] E. col resistant to Amp and Unasyn
   blood cx negative
   Assessment and Plan
   LGIB:  Hct stable no further bleeding
   HOTN:  has been off dopa since yesterday.
   Right ventricular systolic heart failure:  Will benefit from diuresis
   as she is fluid overloaded.
   Respiratory failure:  has been off vent since yesterday
   UTI:  continue cipro for 10 days for complicated UTI
   Chronic renal faiure: Cr back to baseline.
   rehab screening
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-4-2**] 01:51 AM
   Arterial Line - [**2117-4-2**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2117-04-06 11:16:00 Physician Attending Progress Note
Chief Complaint: LGIB and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    78 yo women with GIB and respiratory failure, chronic trach, has been
   off vent.  Patient did well overnight.  Stayed off vent.  Tolerated PMV
   and PO diet.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2117-4-5**] 09:00 AM
 ARTERIAL LINE - STOP [**2117-4-5**] 04:41 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-4-4**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-4-4**] 04:00 PM
   Ciprofloxacin - [**2117-4-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-4-5**] 11:45 AM
   Furosemide (Lasix) - [**2117-4-6**] 06:35 AM
   Other medications:
   Cipro
   lasix
   albuterol
   SSI
   simvastatin
   calcitriol
   chlorhexidine
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2117-4-6**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 81 (70 - 95) bpm
   BP: 149/68(82) {115/38(60) - 159/95(103)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 66 Inch
                  Total In:
                                                                    400 mL
                                                                    360 mL
   PO:
                                                                    300 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                  1,360 mL
   Urine:
                                                                  2,405 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,005 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   153 K/uL
   75 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   20 mg/dL
   111 mEq/L
   146 mEq/L
   26.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2117-4-4**]  04:02 AM
                             [**2117-4-4**]  04:10 AM
                             [**2117-4-4**]  02:14 PM
                             [**2117-4-4**]  06:29 PM
                             [**2117-4-4**]  09:36 PM
                             [**2117-4-4**]  09:54 PM
                             [**2117-4-5**]  04:28 AM
                             [**2117-4-5**]  04:44 AM
                             [**2117-4-5**]  03:33 PM
                             [**2117-4-6**]  04:18 AM
   WBC
   10.0
   8.6
   10.1
   Hct
   26.8
   25.5
   26.1
   25.8
   26.8
   26.9
   Plt
   180
   153
   153
   Cr
   1.5
   1.3
   1.1
   TCO2
   29
   29
   31
   32
   Glucose
   106
   82
   75
   Other labs: PT / PTT / INR:13.7/29.8/1.2, CK / CKMB /
   Troponin-T:106/5/0.08, Differential-Neuts:81.6 %, Band:2.0 %,
   Lymph:13.9 %, Mono:3.9 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic
   Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   LGIB:  Stable no further bleeding.
   HOTN: resolved
   Fluid overload:  Diuresing well to lasix.  Still steems fluid
   overloaded
   Diastolic CHF:  [**Month (only) 60**] need to add back hypertensive medications as she
   recovers and BP increases.
   Bradycardia:  has resolved
   AF/anticoagulation:  can slowly titrate up diltiazem once at rehab.
   Will need to restart anticoagulation at some point, makes sense to wait
   a few weeks from time
   of bleed to restart.
   UTI:  on cipro for UTI for total 7 days, should finish tomorrow
   ICU Care
   Nutrition:
   Comments: tolerating PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2117-4-2**] 01:51 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes